US04175137
A solution of 1.68 g of potassium hydroxide in 20 ml of water is added at room temperature to a solution of 6.24 g of 1-acetoxy-2-(4-phenoxyphenoxy)-cyclopentane in 50 ml of ethanol. The mixture is then refluxed for 3 hours and, after cooling, concentrated to 166 of its original volume by rotary evaporation. The residue is poured into ice-water. After extraction with ether, the organic phase is washed three times with saturated sodium chloride solution, dried over sodium sulphate and concentrated by rotary evaporation. Distillation of the residue yields 2-(4-phenoxyphenoxy)-cyclopentan-1-ol as a colourless oil with a boiling point of 181°-185° C./0.001 torr.

reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
reactant | 1-acetoxy-2-(4-phenoxyphenoxy)-cyclopentane | 6.24 g | C(C)(=O)OC1C(CCC1)OC1=CC=C(C=C1)OC1=CC=CC=C1 | C19H20O4
solvent | water | 20 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-phenoxyphenoxy)-cyclopentan-1-ol | O(C1=CC=CC=C1)C1=CC=C(OC2C(CCC2)O)C=C1 | C17H18O3
